US04581457
(C) 3-[(2-benzothiazolyl)methoxy]aniline
To a suspension of 3-[(2-benzothiazolyl)methoxy]nitrobenzene (18.6 g) in ethanolic hydrochloric acid is added powdered iron. The reaction is stirred overnight at room temperature. After neutralization with saturated aqueous sodium bicarbonate, the mixture is extracted three times with methylene chloride. The extract is dried over magensium sulfate and concentrated to give 15.1 g (90% yield) of product, m.p. 117°-120° C.

reactant | 3-[(2-benzothiazolyl)methoxy]nitrobenzene | 18.6 g | S1C(=NC2=C1C=CC=C2)COC=2C=C(C=CC2)[N+](=O)[O-] | C14H10N2O3S
solvent | hydrochloric acid | Cl | ClH
catalyst | iron | [Fe] | Fe
product | 3-[(2-benzothiazolyl)methoxy]aniline | 15.1 g, 90% yield | S1C(=NC2=C1C=CC=C2)COC=2C=C(N)C=CC2 | C14H12N2OS
